US05260297
3-[3-(4-Phenyl-1-piperazinyl)propyl]-2-trifluoroacetylimino-6-trifluoromethoxybenzothiazoline hydrochloride (3.6 g), dissolved in a mixture of 7% strength aqueous potassium carbonate solution (45 cc) and methanol (150 cc), is stirred for 4 hours at a temperature in the region of 20° C. After concentration to dryness, the reaction medium is taken up in distilled water (100 cc) and the organic phase extracted with ethyl acetate (2×100 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (20 mmHg; 2.7 kPa). After formation of the dihydrochloride by adding 4.2N ethereal hydrogen chloride (4 cc) in ethyl acetate, the precipitate is recrystallized in an absolute ethanol/ethyl ether mixture (50:50 by volume). 2-Imino-3-[3-(4-phenyl-1-piperazinyl)propyl]-6-trifluoromethoxybenzothiazoline dihydrochloride (1.6 g), m.p. 260° C., is obtained.

reactant | 3-[3-(4-Phenyl-1-piperazinyl)propyl]-2-trifluoroacetylimino-6-trifluoromethoxybenzothiazoline hydrochloride | 3.6 g | Cl.C1(=CC=CC=C1)N1CCN(CC1)CCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=NC(C(F)(F)F)=O
solvent | potassium carbonate | 45 cc | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 150 cc | CO | CH4O
product | 2-Imino-3-[3-(4-phenyl-1-piperazinyl)propyl]-6-trifluoromethoxybenzothiazoline dihydrochloride | 1.6 g | Cl.Cl.N=C1SC2=C(N1CCCN1CCN(CC1)C1=CC=CC=C1)C=CC(=C2)OC(F)(F)F | InChI=1S/C21H23F3N4OS.2ClH/c22-21(23,24)29-17-7-8-18-19(15-17)30-20(25)28(18)10-4-9-26-11-13-27(14-12-26)16-5-2-1-3-6-16;;/h1-3,5-8,15,25H,4,9-14H2;2*1H
